US07544697B2
1,5-Diethyl-1H-pyrazole-3-carboxamide (8.3 g, 0.050 mol) was treated with phosphorous oxychloride (35 mL) according to the method described in Part C of Example 7. The reaction was heated for 2.5 hours to provide 7.6 g of 1,5-diethyl-1H-pyrazole-3-carbonitrile as a yellow oil, which was used without purification.

reactant | 1,5-Diethyl-1H-pyrazole-3-carboxamide | 0.050 mol, 8.3 g | C(C)N1N=C(C=C1CC)C(=O)N | C8H13N3O
reactant | phosphorous oxychloride | 35 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,5-diethyl-1H-pyrazole-3-carbonitrile | 7.6 g | C(C)N1N=C(C=C1CC)C#N | C8H11N3
